US07071208B2
A solution of (2-{[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-methyl-butyrylamino]-methyl}-pyridin-3-yloxy)-acetic acid ethyl ester (2.79 g, 6.349 mmol) in 100 ml of neat phosphoryl chloride is stirred at 75° C. for 16 hours. The reaction mixture is poured on 200 g of crushed ice and extracted with methylene chloride. The organic phase is dried over sodium sulfate and evaporated. The residue is purified via flash chromatography on silica gel using a methylene chloride/methylene chloride-ethanolic ammonia gradient (100 to 96:4) to give 1.48 g of {3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-methyl-propyl]-imidazo[1,5-a]pyridin-8-yloxy}-acetic acid ethyl ester (55%).

reactant | (2-{[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-methyl-butyrylamino]-methyl}-pyridin-3-yloxy)-acetic acid ethyl ester | 6.349 mmol, 2.79 g | C(C)OC(COC=1C(=NC=CC1)CNC(CC(C)(C)N1C(C2=CC=CC=C2C1=O)=O)=O)=O | C23H25N3O6
solvent | phosphoryl chloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | {3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-methyl-propyl]-imidazo[1,5-a]pyridin-8-yloxy}-acetic acid ethyl ester | 1.48 g, 55% | C(C)OC(COC=1C=2N(C=CC1)C(=NC2)CC(C)(C)N2C(C1=CC=CC=C1C2=O)=O)=O | C23H23N3O5
